US05166213
Sodium hydride (5.83 g of a 55% dispersion in mineral oil) was added to a solution of phenol (12.56 g) in DMPU (25 ml) at 5° C. and the mixture was stirred for 30 minutes. Bromoacetaldehyde diethyl acetal (10.05 ml) was added and the mixture was heated at 110° C. for 5 hours, then allowed to cool. The mixture was partitioned between ethyl acetate (100 ml) and water (100 ml) and the organic phase was separated and washed sequentially with aqueous 2M sodium hydroxide solution (2×50 ml) and water (50 ml). The aqueous fractions were combined and re-extracted with ethyl acetate (100 ml). The combined organic extracts were dried (MgSO4) and concentrated. The resultant oil was purified by flash column chromatography, eluting with ethyl acetate/hexane (1:10 v/v) to give 2-phenoxyacetaldehyde diethyl acetal (9.43 g) as an oil; NMR: 1.25(6H,t, J=7.0 Hz), 3.6-3.85(4H,m), 4.05(2 H,d, J=6.0 Hz), 4.85 (1H,t, J=6.0 Hz) and 6.9-7.35(5H,m).

reactant | Sodium hydride | [H-].[Na+]
reactant | phenol | 12.56 g | C1(=CC=CC=C1)O | C6H6O
reactant | Bromoacetaldehyde diethyl acetal | 10.05 ml | C(C)OC(CBr)OCC | C6H13BrO2
solvent | DMPU | 25 ml | CN1CCCN(C1=O)C | C6H12N2O
product | 2-phenoxyacetaldehyde diethyl acetal | 9.43 g | C(C)OC(COC1=CC=CC=C1)OCC | C12H18O3
